US08877782B2
N-Cyclopropylmethyl-6-{[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-nicotinamide
As described for example 173, 6-{[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-nicotinic acid methyl ester (70 mg, 0.2 mmol) was converted, using aminomethylcyclopropane instead of 2,2,2-trifluoroethylamine, to the title compound (80 mg, 83%) which was obtained as an off white foam. MS: m/e=381.4 [M+H]+.

reactant | 6-{[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-nicotinic acid methyl ester | 0.2 mmol, 70 mg | COC(C1=CN=C(C=C1)NCC=1C(=NOC1C)C1=CC=C(C=C1)F)=O | C18H16FN3O3
reactant | aminomethylcyclopropane | NCC1CC1 | C4H9N
product | N-Cyclopropylmethyl-6-{[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-nicotinamide | 80 mg, 83% | C1(CC1)CNC(C1=CN=C(C=C1)NCC=1C(=NOC1C)C1=CC=C(C=C1)F)=O | C21H21FN4O2
